US07060823B2
A solution of 2 g of 7-(3-chloro-4-methoxybenzylamino)-5-chloromethyl-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidine in 10 ml of DMF is treated with 5 ml of 3-aminopropanol and stirred at room temperature for two hours. It is then diluted with water and extracted with ethyl acetate. The oily product obtained after customary work-up is dissolved in alcoholic HCl and treated with ethyl acetate until turbidity. The precipitated crystals are filtered off with suction and recrystallized from isopropanol/ethyl acetate. 3.1 g of 7-(3-chloro-4-methoxybenzylamino)-5-(3-hydroxypropylaminomethyl)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidine are obtained in the form of its dihydrochloride.

reactant | 7-(3-chloro-4-methoxybenzylamino)-5-chloromethyl-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidine | 2 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CCl)C(=NN3C)CCC)C=CC1OC | C18H21Cl2N5O
reactant | 3-aminopropanol | 5 ml | NCCCO | C3H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | HCl | Cl | ClH
product | 7-(3-chloro-4-methoxybenzylamino)-5-(3-hydroxypropylaminomethyl)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidine | 3.1 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CNCCCO)C(=NN3C)CCC)C=CC1OC | C21H29ClN6O2
